US05281571
28.5 g of 2,5-difluoroacetophenone and 26 g of ethyl trifluoroacetate were stirred in 400 ml of anhydrous ether and cooled in an ice bath. 42 ml of 25 wt % sodium methoxide in methanol was then added over 5 minutes. After stirring 1 hour at room temperature, the reaction mixture was extracted with water, the water acidified and extracted with methylene chloride to give 42 g of 1-(2,5-difluorophenyl)-3-(trifluoromethyl)propane-1,3-dione.

reactant | 2,5-difluoroacetophenone | 28.5 g | CC(=O)C1=C(C=CC(=C1)F)F | C8H6F2O
reactant | ethyl trifluoroacetate | 26 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | C[O-].[Na+]
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 1-(2,5-difluorophenyl)-3-(trifluoromethyl)propane-1,3-dione | 42 g | FC1=C(C=C(C=C1)F)C(CC(=O)C(F)(F)F)=O | C10H5F5O2
